US07199135B2
1-(2-CHLORO-4-FLUOROPHENYL)-N-[3-(4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINYL)PROPYL]CYCLOPENTANECARBOXAMIDE:
Example 119 was prepared from 1-(2-chloro-4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropane carboxamide according to the procedures described in Scheme 10: ESMS m/e: 526.2 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclopentanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCC1)C(=O)O | C12H12ClFO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropane carboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | 1-(2-CHLORO-4-FLUOROPHENYL)-N-[3-(4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINYL)PROPYL]CYCLOPENTANECARBOXAMIDE | ClC1=C(C=CC(=C1)F)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(=O)C1CC1 | C30H37ClFN3O2
